US04440929
4-Oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid
4-Oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester (3.5 g) was dissolved in 100 ml of 0.5 N sodium hydroxide solution. The solution was heated on steam bath for one hour, cooled to room temperature, then acidified by concentrated hydrochloric acid (5 ml). The product precipitated out as a white solid (3.0 g, 95% yield), m.p. >300° C.

reactant | 4-Oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 3.5 g | C(C)OC(=O)C=1N=CN2C1C(NC1=CC=CC=C21)=O | C13H11N3O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | sodium hydroxide | 0.5 N, 100 ml | [OH-].[Na+]
product | 4-Oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid | 3.0 g, 95% yield | O=C1C=2N(C3=CC=CC=C3N1)C=NC2C(=O)O | C11H7N3O3
